2174-10-27 07:13:00 Physician Resident Progress Note
24 Hour Events:
 CALLED OUT
   - admitted on [**10-26**]
   - SBP 100-125s
   - ruled out for flu
   - increased oxygen to 3L overnight
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-10-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2174-10-27**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 86 (66 - 100) bpm
   BP: 121/60(73) {83/35(47) - 129/82(88)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.9 kg (admission): 75.9 kg
                  Total In:
                                                                  5,050 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
                                                                    330 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    700 mL
   Urine:
                                                                  1,700 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,350 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   GENERAL: pleasant female in NAD
   HEENT: anicteric, EOMI, no cervical LAD, MM slightly dry, OP - no
   exudate, no erythema
   CARDIAC: RRR, nl S1, S2, no m/r/g
   LUNG: no wheezes, decreased BS at bilateral bases
   ABDOMEN: NDNT, soft, NABS
   EXT: no c/c/e
   NEURO: A&O x 3
   DERM: no rashes noted
   Labs / Radiology
   206 K/uL
   10.4 g/dL
   96 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   13 mg/dL
   108 mEq/L
   139 mEq/L
   31.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2174-10-26**]  05:20 AM
                             [**2174-10-27**]  05:30 AM
   WBC
   5.7
   7.8
   Hct
   31.1
   31.6
   Plt
   217
   206
   Cr
   0.9
   0.9
   Glucose
   99
   96
   Other labs: Differential-Neuts:77.2 %, Lymph:16.0 %, Mono:3.9 %,
   Eos:2.7 %, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
[**10-25**] BCx x 2 NGTD
[**10-26**] UCx Negative
                            **FINAL REPORT [**2174-10-26**]**
   DIRECT INFLUENZA A ANTIGEN TEST (Final [**2174-10-26**]):
      Negative for Influenza A.
   DIRECT INFLUENZA B ANTIGEN TEST (Final [**2174-10-26**]):
      Negative for Influenza B.
   [**10-26**] PORTABLE CXR:
   FINDINGS: There is new mild vascular congestion with increased
   interstitial
   markings in the lower lobes bilaterally, presence of mild perihilar
   haziness
   and cuffing consistent with new mild pulmonary edema. The
   cardiomediastinal
   silhouette is unchanged and normal. No new consolidation, pleural
   effusion or
   pneumothorax.
   IMPRESSION: New mild pulmonary edema. No pneumothorax or consolidation.
   Assessment and Plan
   Ms. [**Known lastname 8486**] is a 73 y.o. F with COPD, history of pneumonia, who
   presented with 1 week of flu-like symptoms, admitted to ICU for
   hypotension, now resolved.
   .
   # Influenza like illness: Will continue with supportive care, with
   fluids and tylenol prn. Influenza negative.
   Symptoms are continuing to improve. She is not critically ill, and
   nearly back to baseline oxygenation. Likely has mild increase in
   interstitial fluid following volume resus.
   .
   # Tachycardia: Resolved.  Pt adequately resuscitated with 4 L NS from
   ED.  Now tolderating po
   .
   # ARF: Resolved.
   .
   # COPD: Seen by Dr. [**Last Name (STitle) 1513**] as outpatient.
   - goal oxygen O2 89-93% given COPD; currently on NC likely [**2-28**] some
   component of volume overload
   - continue home regimen of albuterol, ipatropium
   .
   # OSA: Did not tolerate CPAP as outpatient, on 2 L NC at night
   - continue oxygen supplementation
   .
   # HTN: Restart Lisinopril upon discharge.
   .
   # Hypothyroidism: Continue home regimen of Levothyroxine
   .
   # Hyperlipidemia: Continue home regimen of Simvastatin
   .
   # H/o breast CA: Continue home Anastrazole 1 mg daily
   .
   # Psych: Continue home Fluoxetine 20 mg daily
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-10-26**] 05:33 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Called out / D/C Home

2174-10-28 07:31:00 Physician Resident Progress Note
24 Hour Events:
 CALLED OUT
   - still on 3 L NC
   - d/c tele per pt's request
   - reconciled home meds with pharmacy
   - called out to medicine as pt still with 3 L NC requirment
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-28**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 85 (76 - 85) bpm
   BP: 123/60(76) {93/52(63) - 123/68(76)} mmHg
   RR: 18 (17 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.9 kg (admission): 75.9 kg
                  Total In:
                                                                    170 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                      0 mL
   Urine:
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,380 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: pleasant female in NAD
   HEENT: anicteric, EOMI, no cervical LAD, MMM, OP - no exudate, no
   erythema
   CARDIAC: RRR, nl S1, S2, no m/r/g
   LUNG: no wheezes, decreased BS at bilateral bases
   ABDOMEN: NDNT, soft, NABS
   EXT: no c/c/e
   NEURO: A&O x 3
   DERM: no rashes noted
   Labs / Radiology
   206 K/uL
   10.4 g/dL
   96 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   13 mg/dL
   108 mEq/L
   139 mEq/L
   31.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2174-10-26**]  05:20 AM
                             [**2174-10-27**]  05:30 AM
   WBC
   5.7
   7.8
   Hct
   31.1
   31.6
   Plt
   217
   206
   Cr
   0.9
   0.9
   Glucose
   99
   96
   Other labs: Differential-Neuts:77.2 %, Lymph:16.0 %, Mono:3.9 %,
   Eos:2.7 %, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   [**10-25**] BCx pending
   [**10-26**] BCx pending
   [**10-27**] Ucx: MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH
   SKIN
         AND/OR GENITAL CONTAMINATION
DIRECT INFLUENZA A ANTIGEN TEST (Final [**2174-10-26**]):
      Negative for Influenza A.
   DIRECT INFLUENZA B ANTIGEN TEST (Final [**2174-10-26**]):
      Negative for Influenza B.
[**10-26**] CXR
   FINDINGS: There is new mild vascular congestion with increased
   interstitial
   markings in the lower lobes bilaterally, presence of mild perihilar
   haziness
   and cuffing consistent with new mild pulmonary edema. The
   cardiomediastinal
   silhouette is unchanged and normal. No new consolidation, pleural
   effusion or
   pneumothorax.
   IMPRESSION: New mild pulmonary edema. No pneumothorax or consolidation.
   Assessment and Plan
   Ms. [**Known lastname 8486**] is a 73 y.o. F with COPD, history of pneumonia, who
   presented with 1 week of flu-like symptoms, admitted to ICU for
   hypotension, now resolved.
   .
   # Influenza like illness: Will continue with supportive care, with
   fluids and tylenol prn. Influenza negative.
   Symptoms are continuing to improve. She is not critically ill, and
   nearly back to baseline oxygenation. Likely has mild increase in
   interstitial fluid following volume resus.
   .
   # COPD: Seen by Dr. [**Last Name (STitle) 1513**] as outpatient.
   - goal oxygen O2 89-93% given COPD; currently on NC likely [**2-28**] some
   component of volume overload
   - continue home regimen of albuterol, ipatropium
   .
   # OSA: Did not tolerate CPAP as outpatient, on 2 L NC at night
   - continue oxygen supplementation
   .
   # HTN: Restart Lisinopril upon discharge.
   .
   # Hypothyroidism: Continue home regimen of Levothyroxine
   .
   # Hyperlipidemia: Continue home regimen of Simvastatin
   .
   # H/o breast CA: Continue home Aromasin
   .
   # Psych: Continue home Fluoxetine 20 mg daily
   ICU Care
   Nutrition: Full
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-10-26**] 05:33 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: none indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out vs. Discharge home today after O2 sat while
   walking > 93%